US09315491B2
5-Ethoxy-2-(3-hydroxy-phenyl)-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester
A mixture of 2-chloro-5-ethoxy-6-morpholine-4-yl-pyrimidine-4-carboxylic acid ethyl ester (152 mg, 1 eq.), 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (137.9 mg, 1.3 eq.), dioxane (6 ml), H2O (1 ml), Pd(PPh3)4 (56 mg, 0.1 eq.) and sodium carbonate (102 mg, 2 eq.) was heated to reflux overnight. The solvent was removed in vacuo. The residue was extracted with EA, and the organic layer washed with brine and dried. The crude was purified by chromatography to give a product (99.6 mg, 55%).

reactant | 2-chloro-5-ethoxy-6-morpholine-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 152 mg, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)Cl | C13H18ClN3O4
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 137.9 mg, 1.3 eq. | CC1(OB(OC1(C)C)C=1C=C(C=CC1)O)C | C12H17BO3
reactant | dioxane | 6 ml | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 102 mg, 2 eq. | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 56 mg, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 1 ml | O | H2O
product | 5-Ethoxy-2-(3-hydroxy-phenyl)-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 99.6 mg, 55% | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC(=CC=C1)O | C19H23N3O5
